US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-[6-(1H-indol-3-yl)hexyl]acetamide
(4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride (810 mg, 2.73 mmol) in dry dimethylformamide (10 ml) under argon. The solution was cooled to 0° C. and dicyclohexylcarbodiimide (1.13 g, 5.46 mmol) was added. The reaction mixture was stirred at RT for 11 d. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. The aqueous phase was diluted with water (300 ml), 5 M sodium hydroxide solution (7 ml, 35 mmol) was added and the mixture was stored at 5° C. for 16 h. The crude product thereby precipitated out as a beige-coloured solid in a yield of 16% (197 mg). After chromatography on silica gel (20 g) with EA/methanol (4:1), the product was isolated as an oily compound (92 mg) in a yield of 8%.

reactant | (4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride | 2.73 mmol, 810 mg | Cl.CN(C1(CCC(CC1)=CC(=O)O)C1=CC=CC=C1)C
reactant | dicyclohexylcarbodiimide | 5.46 mmol, 1.13 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium hydroxide | 35 mmol, 5 M, 7 ml | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-[6-(1H-indol-3-yl)hexyl]acetamide | 92 mg, yield of 8% | CN(C1(CCC(CC1)=CC(=O)NCCCCCCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C30H39N3O
